US04760163
using ethyl 2-nitro-5-ureidobenzoate and ethyl cyclopentanone-2-carboxylate there is obtained ethyl 5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-2-nitrobenzoate, m.p. 152°-155° C.,

reactant | ethyl 2-nitro-5-ureidobenzoate | [N+](=O)([O-])C1=C(C(=O)OCC)C=C(C=C1)NC(=O)N | C10H11N3O5
reactant | ethyl cyclopentanone-2-carboxylate | CCOC(=O)C1CCCC1=O | C8H12O3
product | ethyl 5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-2-nitrobenzoate | C(C)OC(=O)C1=C(CCC1)NC(NC=1C=CC(=C(C(=O)OCC)C1)[N+](=O)[O-])=O | C18H21N3O7
